US08981111B2
To a solution of N-hydroxy-1-(1-methyl-1H-imidazol-5-yl)-1-phenylmethanimine (3.90 g, 19.4 mmol) and 4-(chloromethyl)-1,3-thiazol-2-amine hydrochloride (3.95 g, 21.3 mmol) in acetonitrile (50 mL) were added cesium carbonate (13.3 g, 40.7 mmol) and potassium iodide (322 mg, 1.93 mmol). After stirring at room temperature for 29 h, N-N-dimethylformamide (5 mL) was added and the mixture was further at room temperature for 72 h. The reaction mixture was filtered, the insolubles washed with acetone, and the filtrate concentrated in vacuo. Purification on silica gel afforded 4-[({[(1-methyl-1H-imidazol-5-yl)(phenyl)methylene]amino}oxy)methyl]-1,3-thiazol-2-amine [1.09 g, yield 16%; HPLC/MS: m/z=314 (M+H); log P(HCOOH)=0.69].

reactant | N-hydroxy-1-(1-methyl-1H-imidazol-5-yl)-1-phenylmethanimine | 19.4 mmol, 3.90 g | ON=C(C1=CC=CC=C1)C1=CN=CN1C | C11H11N3O
reactant | 4-(chloromethyl)-1,3-thiazol-2-amine hydrochloride | 21.3 mmol, 3.95 g | Cl.ClCC=1N=C(SC1)N
reactant | cesium carbonate | 40.7 mmol, 13.3 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | potassium iodide | 1.93 mmol, 322 mg | [I-].[K+]
solvent | acetonitrile | 50 mL | C(C)#N | C2H3N
product | 4-[({[(1-methyl-1H-imidazol-5-yl)(phenyl)methylene]amino}oxy)methyl]-1,3-thiazol-2-amine | 1.09 g, yield 16% | CN1C=NC=C1C(C1=CC=CC=C1)=NOCC=1N=C(SC1)N | C15H15N5OS
